US08703742B2
[3-Ethoxy-4-methoxy-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde
Synthesized according to the methods of general procedure 5 in U.S. Pat. Pub. No. 20090227541 (U.S. patent application Ser. No. 12/142,692) using the following reactants and amounts: 2-bromo-3-ethoxy-4-methoxy-benzaldehyde (4 g, 15.43 mmol), KOAc (4.55 g, 46.29 mmol), bis(pinacolato)diboron (7.84 g, 30.86 mmol). PdCl2(dppf) (0.91 g, 1.24 mmol) in dry dioxane (90 mL). The crude product was purified by silica gel column chromatography (eluant: EtOAc/hexanes 1:9 then 1:3) to afford the title compound as a white solid (1.50 g, 32% yield). 1H NMR (400 MHz, CDCl3) δ (ppm) 9.71 (s, 1H), 7.44 (d, J=8.4 Hz, 1H), 6.89 (d, J=8.4 Hz, 1H), 4.01 (q, J=7.1 Hz, 2H), 3.82 (s, 3H), 1.38 (s, 12H), 1.35 (t, J=7.0 Hz, 3H).

reactant | 2-bromo-3-ethoxy-4-methoxy-benzaldehyde | 15.43 mmol, 4 g | BrC1=C(C=O)C=CC(=C1OCC)OC | C10H11BrO3
reactant | KOAc | 46.29 mmol, 4.55 g | CC(=O)[O-].[K+]
reactant | bis(pinacolato)diboron | 30.86 mmol, 7.84 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
solvent | dioxane | 90 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 1.24 mmol, 0.91 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 3-Ethoxy-4-methoxy-2-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-benzaldehyde | 1.50 g, 32% yield | C(C)OC=1C(=C(C=O)C=CC1OC)B1OC(C(O1)(C)C)(C)C | C16H23BO5
